* eeschema netlist version 1.1 (spice format) creation date: tuesday 23 april 2013 12:03:40 pm ist

* Plotting option vplot8_1
v1  2 0 sine(0 1 50  )
r6  3 6 10k
r1  1 2 10k
c1  6 1 1m
r3  6 0 15k
r9  7 0 1k
c2  11 0 1m
r7  4 9 8k
r8  8 0 3.4k
c4  7 9 1m
r5  11 0 870
r4  4 10 10k
v2  4 0 12
c3  8 3 1m
r2  4 6 100k
q2 9 10 8 npn
q1 10 6 11 npn

.tran  2e-03 20e-03 0e-00

* Control Statements 
.control
run
plot v(8) v(7) 
.endc
.end
